US06071532
PDC oxidation of 16-(2,3,4,6-tetra-O-benzyl-β-D-galactopyranosyloxy)-n-hexadecanol. Under an atmosphere of nitrogen, pyridinium dichromate (320 mg, 0.851 mmol) was added to a dry methylene chloride solution (6 mL) of 16-(2,3,4,6-tetra-O-benzyl-β-D-galactopyranosyloxy)-n-hexadecanol (455 mg, 0.583 mmol). The resulting brown slurry was stirred at room temperature under nitrogen. TLC analysis (visualization by UV and char with 10% sulfuric acid in ethanol) of the reaction mixture indicated complete consumption of the starting material and the formation of a new compound after 17 h. The reaction mixture was treated with ether (10 mL), filtered through silica gel and Celite with an ether wash (25 mL) and concentrated to an off-white oil. Chromatographic purification (silica gel, 10% ethyl acetate in hexanes) afforded 345 mg (0.443 mmol, 76%) of 16-(2,3,4,6-tetra-O-benzyl-β-D-galactopyranosyloxy)-n-hexadecanal as a clear oil. Rf =0.72 (silica gel, 30% ethyl acetate in hexanes); 1H NMR (CDCl3, 300 MHz) δ: 9.75 (t, J=1.5 Hz, 1H), 7.30 (m, 20H), 4.95 (d, J=11.7 Hz, 2H), 4.75 (m, 2H), 4.63 (d, J=11.7 Hz, 1H), 4.43 (d, J=4.5 Hz, 2H), 4.36 (d, J=7.8 Hz, 1H), 3.65 (m, 2H), 3.82 (dt, J=8.7, 1.5 Hz, 1H), 3.56 (m, 6H), 2.40 (dt, J=7.5, 1.5 Hz, 2H), 1.60 (m, 4H), 1.26 (m, 24 H); MS (FAB+): 801.3 (M+Na, 14), 785.3 ((M+Li)+, 29), 253.1 (10), 181.1 (100), 160.0 (16), 136.0 (21), 123.0 (12).

reactant | PDC | C1=CC=[NH+]C=C1.C1=CC=[NH+]C=C1.[O-][Cr](=O)(=O)O[Cr](=O)(=O)[O-]
reactant | 16-(2,3,4,6-tetra-O-benzyl-β-D-galactopyranosyloxy)-n-hexadecanol | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCCCCCCCCCCCCCCCCO | C50H68O7
reactant | pyridinium dichromate | 0.851 mmol, 320 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
reactant | 16-(2,3,4,6-tetra-O-benzyl-β-D-galactopyranosyloxy)-n-hexadecanol | 0.583 mmol, 455 mg | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCCCCCCCCCCCCCCCCO | C50H68O7
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | C(C)O | C2H6O
product | 16-(2,3,4,6-tetra-O-benzyl-β-D-galactopyranosyloxy)-n-hexadecanal | 0.443 mmol, 345 mg, 76% | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCCCCCCCCCCCCCCCC=O | C50H66O7
